Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Lithium overdose
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y/o M with PMH of bipolar disorder presenting to ED 
approximately 8 hours after taking up to 18 g of lithium. Per 
review of medication history, written for extended release 
formulation. Patient denies any other co-ingestions. Patient 
stated that he vomited 3 hours after ingesting. Patient denies 
numbness, weakness, tingling, chest pain. Patient endorses mild 
abdominal pain without nausea.

In ED initial VS: T 97.7, BP 153/90, HR 91, RR 18, 100% RA 
 
Labs significant for: Ca ___
U-tox negative

Patient was given: 
1 L IVF 
Go-lytley 
 
Imaging notable for:
EKG - Sinus rhythm at 86, STE V1/V2, Brugada type pattern, LVH, 
no STEMI  
 
Consults: Toxocology 
___ go lightly per hour w/ narrowest bore ng tube until stool 
clear
ivf
sx to watch for: ams, htn, bradycardia, ataxia, nystagmus, 
clonus, tremor
labs:lithium/chem 7 q2h
 
VS prior to transfer: 97.7 67 136/74 16 99% RA 
 
On arrival to the FICU, patient had a large BM. Reports GI upset 
from large volume of Golytely. Otherwise he is asymptomatic. 
Reports he consumed approximately 12 tablets, 300mg ER. He 
denies any other consumption. Follows with psychiatrist here in 
___, Dr. ___. Saw psychiatrist last week. Reports he was 
feeling poorly at that time but did not notify his psychiatrist. 
His diagnosis of bipolar disorder is rather recent per patient 
and he was started on medication over the summer. Current 
stressor that triggered this episode was social anxiety per 
patient. Reports fall classes have not yet started and he is not 
anxious about school work. His parents live in ___ they 
are aware of his diagnosis of bipolar but do not know he is in 
the hospital. He does not want me to call them at this time, but 
gave me his mothers contact information in case of emergency. 

 
Past Medical History:
Bipolar disorder
Factor V Leiden Deficiency, H/O ___ DVT
 
Social History:
___
Family History:
Father with DM. Denies family history of psychiatric illness or 
sudden cardiac death.  
 
 
Physical Exam:
ADMISSION EXAM
VITALS: Reviewed in metavision  
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN:  
NEURO: CN II-XII intact, sensation to light touch intact over 
bilateral upper and lower extremities. Strength ___ in bilateral 
upper and lower extremities. Patellar reflexes 2+ bilaterally.   


DISHCARGE EXAM
VS: 24 HR Data (last updated ___ @ 938)
Temp: 97.6 (Tm 98.9), BP: 125/79 (116-148/70-79), HR: 74 
(54-74), RR: 18, O2 sat: 97% (97-100), O2 delivery: Ra  
GEN: Alert, NAD
HEENT: NC/AT, PERRL, EOMI, no nystagmus
CV: RRR, no m/r/g appreciated
PULM: CTA B, breathing appears comfortable
GI: S/NT/ND, BS present 
NEURO: PERRL, EOMI, no nystagmus, moving all extremities equally 
and with purpose with ___ strength, no tremor noted, FNF WNL 
bilaterally, no clonus
PSYCH: Calm, appropriate affect today
 
Pertinent Results:
ADMISSION LABS:
___ 03:56AM BLOOD WBC-7.8 RBC-4.98 Hgb-14.5 Hct-42.6 MCV-86 
MCH-29.1 MCHC-34.0 RDW-11.6 RDWSD-35.8 Plt ___
___ 03:56AM BLOOD Neuts-74.6* Lymphs-15.6* Monos-6.8 
Eos-2.2 Baso-0.3 Im ___ AbsNeut-5.84 AbsLymp-1.22 
AbsMono-0.53 AbsEos-0.17 AbsBaso-0.02
___ 02:55AM BLOOD Glucose-85 UreaN-7 Creat-0.9 Na-140 K-3.9 
Cl-100 HCO3-28 AnGap-12
___ 02:55AM BLOOD ALT-38 AST-24 AlkPhos-102 TotBili-0.5
___ 05:00AM BLOOD CK(CPK)-454*
___ 02:55AM BLOOD Albumin-5.1 Calcium-10.6* Phos-2.7 Mg-2.0
___ 02:55AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

OTHER PERTINENT LABS:
___ 08:18AM BLOOD Lactate-1.0
___ 02:55AM BLOOD Lithium-2.7*
___ 05:00AM BLOOD Lithium-2.6*
___ 07:28AM BLOOD Lithium-2.2*
___ 11:25AM BLOOD Lithium-1.8*
___ 03:00PM BLOOD Lithium-2.0*
___ 08:46PM BLOOD Lithium-1.3
___ 11:28PM BLOOD Lithium-1.1
___ 03:59AM BLOOD Lithium-1.0
___ 06:00AM BLOOD Lithium-0.6
___ 08:13AM BLOOD Lithium-0.3*

___ 02:55AM BLOOD TSH-1.5

___ 05:00AM BLOOD CK-MB-2 cTropnT-<0.01
___ 11:25AM BLOOD cTropnT-<0.01
___ 03:00PM BLOOD cTropnT-<0.01

___ 05:00AM BLOOD CK(CPK)-454*
___ 11:25AM BLOOD CK(CPK)-393*
___ 03:00PM BLOOD CK(CPK)-349*
___ 06:00AM BLOOD CK(CPK)-166

DISCHARGE LABS:
___ 08:13AM BLOOD WBC-7.9 RBC-4.94 Hgb-14.5 Hct-43.0 MCV-87 
MCH-29.4 MCHC-33.7 RDW-11.9 RDWSD-37.6 Plt ___
___ 08:13AM BLOOD Glucose-91 UreaN-11 Creat-1.2 Na-143 
K-4.1 Cl-100 HCO3-30 AnGap-13
___ 08:13AM BLOOD Calcium-10.2 Phos-4.4 Mg-1.9

URINE STUDIES:
___ 02:55AM URINE Color-Straw Appear-Clear Sp ___
___ 02:55AM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-8.5* Leuks-NEG
___ 02:55AM URINE RBC-0 WBC-4 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 02:55AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

KUB - IMPRESSION: 
No radiopaque foreign bodies identified in the abdomen or 
pelvis. Normal bowel gas pattern.  No free intraperitoneal air.
 
Brief Hospital Course:
___ yo M with PMH of bipolar disorder, factor V leiden defiency, 
presenting to ED approximately 8 hours after taking up to 18 g 
of lithium. 

# LITHIUM OVERDOSE
Patient with history of bipolar disorder, ingested 18g of 
Lithium ER 300mg tablets. Lithium peaked at 2.7. Had episode of 
vomiting after ingestion. Afterwards he was asymptomatic with 
unremarkable labs. EKGs showed no QTc prolongation, flat T 
waves, bradycardia. He had no ataxia, AMS, nystagmus, clonus, 
tremor. Toxicology was consulted and recommended Golytlely until 
stools clear and IV fluids. He was admitted to the ICU for close 
monitoring and his lithium was checked every ___ hours and 
down-trended. Lithium was in the subtherapeutic range (0.3) at 
the time of discharge.

# BIPOLAR DISORDER
# SUICIDE ATTEMPT
Patient with suicide attempt as above. On ___. He had a 
1:1 sitter and psychiatry was consulted, recommended inpatient 
psychiatric stay once medically cleared. Outpatient psychiatrist 
Dr. ___ ___. Lithium was held while 
inpatient.

# STE V2/V3 
Patient with ST elevations in V2/V3. Given lack of chest pain, 
age and negative Tn x 3, unlikely to represent ACS. Given 
concern for Brugada pattern, cardiac electrophysiology was 
consulted. Assessment as per cardiac electrophysiology: "ECGs 
not classic for Brugada although clinical context ___ toxicity 
could be compatible with a sodium channel interaction. No 
personal or family history of syncope/presyncope. No need for 
urgent cardiac testing or a change of therapy at this
time, as clearly the goals of his current acute care are more 
focused on his psychiatric health. As he is covered in the MIT 
health network, which generally
refers subspecialty care to ___, I would recommend that he be 
connected with the cardiac genetics ___ clinic there with 
Dr. ___, whom I will notify via email.  Long-term 
follow-up of his ECGs, with further testing as needed, can be
coordinated there.  This may also be useful for consideration of 
his psychiatric regimen going forward."

# FACTOR V LEIDEN DEFICIENCY: With history rt calf, ___ dvt. S/p 
3 months of Xarelto, now not on AC. No clinical evidence of VTE 
during admission, and he was maintained on heparin SQ ppx.

TRANSITIONAL ISSUES:
- The patient should follow up with cardiology as above.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. lithium carbonate 300 mg oral DAILY 
2. LORazepam 1 mg PO BID:PRN anxiety
 
Discharge Medications:
None
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Lithium Overdose
Bipolar Disorder
Suicide Attempt

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after you took a large amount 
of lithium. You were monitored closely until your lithium levels 
returned to normal. You were seen by the psychiatry team and are 
now being discharged to an inpatient psychiatric unit.

Of note, your ECG's were notable to have an abnormal pattern. 
You were seen by the cardiologists who felt that this likely 
represents a normal variant. However, you should follow up with 
cardiology as below.
 
Followup Instructions:
___